US04644000
A mixture of 35.2 g (0.2 mole) of 2-hydrazino-4(3H)-quinazolinone, 250 ml of water, 30 ml of methanol and 36.6 ml of concentrated hydrochloric acid is stirred with 36.08 g (0.22 mole) of 1,1,3,3-tetramethoxy-propane at 40° C. The desired product precipitates after a short time from the solution initially formed. After a reaction of one hour in total at 40° C., 29.8 g of 2-(1H-pyrazol-1-yl)-4(3H)-quinazolinone (melting point 148°-50°) are isolated.

reactant | 2-hydrazino-4(3H)-quinazolinone | 0.2 mole, 35.2 g | N(N)C1=NC2=CC=CC=C2C(N1)=O | C8H8N4O
reactant | water | 250 ml | O | H2O
reactant | hydrochloric acid | 36.6 ml | Cl | ClH
reactant | 1,1,3,3-tetramethoxy-propane | 0.22 mole, 36.08 g | COC(CC(OC)OC)OC | C7H16O4
solvent | methanol | 30 ml | CO | CH4O
product | 2-(1H-pyrazol-1-yl)-4(3H)-quinazolinone | 29.8 g | N1(N=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C11H8N4O
